US04689321
3-(Adenin-9-yl) prop-2-enal
To a suspension of adenine (135 mg; 1 mmole) in dimethylformamide (2 ml) at -40° there is added a solution of sodium ethoxide (prepared from 15 mg of sodium hydride) in ethanol (1 ml) and the mixture is stirred for 10 min. Propargyl aldehyde (59 mg; 1.1 mmole) is added in one portion and stirring is continued at -40° for 1 hr. The pale brown reaction mixture is then allowed to come to room temperature and neutralized by the addition of aqueous ammonium chloride. The precipitated solid (100 mg) is removed by filtration. It is recrystallized by dissolution in boiling water (240 ml) followed by cooling. This affords to the pure title compound (100 mg., 52.9%) m.p. 258°-60° C. The NMR spectrum of the material is in agreement with the postulated structure and shows absorption peaks at (DMSO) 7.17 (q,J,=7.8 HzJ2 =14.4 Hz, 1H, --CH=CH--CHO) 7.55 (S, 2H, NH2) 8.28 (S, 1H) 8.54 (d, J, J=14.4 Hz, 1H CH=CH--CHO) 8.64 (S, 1H) 9.68 (d, J-7.9 Hz, CHO). Mass spectrum m/z (intensity, % of base peak), ion: 189 (55.7)M+, 161 (98) (M-CO)+, 160 (32) (M-HCO)+, 134 (100) (MC3H∂)M+, 161 (98) (M-CO)+, 160 (32) (M-HCO)+, 134 (100) (MC3H3O)+, 118 (93).

reactant | adenine | 1 mmole, 135 mg | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | sodium ethoxide | 15 mg | [O-]CC.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-(Adenin-9-yl) prop-2-enal | 100 mg, 52.9% | N1=CN=C2N(C=NC2=C1N)C=CC=O | C8H7N5O
